.subckt nand_2 node_a node_b node_out vdd gnd

.INCLUDE '32nm_HP.pm'
.PARAM Lmin = 32n
.PARAM nWmin = 64n
.PARAM pWmin = 64n
.PARAM Ldiff = 64n

Mp1 node_out node_a vdd vdd pmos W={pWmin} L={Lmin} AS={pWmin*Ldiff} AD={pWmin*Ldiff} PS={2*(Ldiff+pWmin)} PD={2*(Ldiff+pWmin)}
Mp2 node_out node_b vdd vdd pmos W={pWmin} L={Lmin} AS={pWmin*Ldiff} AD={pWmin*Ldiff} PS={2*(Ldiff+pWmin)} PD={2*(Ldiff+pWmin)}

Mn1 node_out node_a node_x 0 nmos W={nWmin} L={Lmin} AS={nWmin*Ldiff} AD={nWmin*Ldiff} PS={2*(Ldiff+nWmin)} PD={2*(Ldiff+nWmin)}
Mn2 node_x node_b 0 0 nmos W={nWmin} L={Lmin} AS={nWmin*Ldiff} AD={nWmin*Ldiff} PS={2*(Ldiff+nWmin)} PD={2*(Ldiff+nWmin)}

* AS - source area
* PS - source perimeter
* AD - drain area
* PD - drain perimeter

.ends nand_2


